US05304685
125 g (1 mol) of 80% strength aqueous 2,2-dimethyl-3-hydroxypropanal (crude mixture from the synthesis, reduced to a water content of 20% by distillation), 185 g (0.9 mol) of 2,6-di-t-butylphenol, 12 g (0.11 mol) of 40% strength aqueous dimethylamine and 700 g of methanol are reacted in a stirred autoclave at 180° C. and under the autogenous pressure of 20-30 bar for 10 h. Workup of the reaction mixture by distillation yields 238 g (92%) of 3-(3,5-di-t-butyl-4-hydroxyphenyl)-2,2-dimethylpropanal (boiling point 126°-127° C.; melting point 75°-77° C.).

reactant | 2,2-dimethyl-3-hydroxypropanal | CC(C=O)(CO)C | C5H10O2
reactant | water | O | H2O
reactant | 2,6-di-t-butylphenol | 0.9 mol, 185 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 700 g | CO | CH4O
product | 3-(3,5-di-t-butyl-4-hydroxyphenyl)-2,2-dimethylpropanal | 238 g, 92% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(C=O)(C)C | C19H30O2
